US05110956
3-(1,3-Benzodioxol-5-yl)propyl phenethyl disulfide
1.5 g of the title compound was prepared from 5 g of 3-(1,3-benzodioxol-5-yl)propanethiol and 5 g of phenethyl mercaptan as a colorless oil according to the same procedure as that described in Example 1.

reactant | 3-(1,3-benzodioxol-5-yl)propanethiol | 5 g | O1COC2=C1C=CC(=C2)CCCS | C10H12O2S
reactant | phenethyl mercaptan | 5 g | C(CC1=CC=CC=C1)S | C8H10S
product | 3-(1,3-Benzodioxol-5-yl)propyl phenethyl disulfide | 1.5 g | C(CC1=CC=CC=C1)SSCCCC1=CC2=C(OCO2)C=C1 | C18H20O2S2
